US07781428B2
A mixture of 4-fluoro-2-(methoxymethyl)benzonitrile (110 mg, 0.67 mmol), hydrazine monohydrate (133 mg, 0.13 mL, 2.6 mmol) and ethanol (5 mL) was heated to reflux overnight. The mixture was cooled to room temp and condensed. The residue was dissolved in methanol and treated with 2.0 N Hydrogen chloride in diethyl ether. The solvent was removed and the solid was dried to give 4-hydrazinyl-2-(methoxymethyl)benzonitrile hydrochloride as an off-white solid.

reactant | 4-fluoro-2-(methoxymethyl)benzonitrile | 0.67 mmol, 110 mg | FC1=CC(=C(C#N)C=C1)COC | C9H8FNO
reactant | hydrazine monohydrate | 2.6 mmol, 0.13 mL, 133 mg | O.NN
reactant | ethanol | 5 mL | C(C)O | C2H6O
reactant | Hydrogen chloride | 2.0 N | Cl | ClH
solvent | methanol | CO | CH4O
solvent | diethyl ether | C(C)OCC | C4H10O
product | 4-hydrazinyl-2-(methoxymethyl)benzonitrile hydrochloride | Cl.N(N)C1=CC(=C(C#N)C=C1)COC | InChI=1S/C9H11N3O.ClH/c1-13-6-8-4-9(12-11)3-2-7(8)5-10;/h2-4,12H,6,11H2,1H3;1H
